US07585885B2
2-Chloro-6-propylsulfanyl-isonicotinic acid methyl ester
Add 2,6-dichloroisonicotinic acid methyl ester (4.12 g, 20.0 mmol), toluene (40 mL), palladium acetate (448 mg, 2.0 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.25 g, 2.0 mmol) and cesium carbonate (7.82 g, 24.0 mmol) into a sealed vessel flushed with nitrogen. Slowly add propanethiol (2.2 mL, 24 mmol). Heat and stir the reaction mixture at 80° C. for 18 h. Cool to room temperature, dilute with diethyl ether and filter through a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, 2:98 to 5:95 ethyl acetate:hexane) to give the title compound (55%).

reactant | 2,6-dichloroisonicotinic acid methyl ester | 20.0 mmol, 4.12 g | COC(C1=CC(=NC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.0 mmol, 1.25 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 24.0 mmol, 7.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | propanethiol | 24 mmol, 2.2 mL | C(CC)S | C3H8S
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium acetate | 2.0 mmol, 448 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-6-propylsulfanyl-isonicotinic acid methyl ester | 55% | COC(C1=CC(=NC(=C1)SCCC)Cl)=O | C10H12ClNO2S
